US06133271
Following the procedure of Example 97, the reaction of 2-methylimidazole with 2-chloro-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine gives 2-(2-methylimidazol-1-yl)-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 2-chloro-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC(=CC=C1)[N+](=O)[O-] | C17H15ClN4O2S
product | 2-(2-methylimidazol-1-yl)-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | CC=1N(C=CN1)C=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC(=CC=C1)[N+](=O)[O-] | C21H20N6O2S
